US07777047B2
N-{2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}pyridine-2-sulfonamide
To a solution of triphenylphosphine oxide (849 mg) in dichloromethane (10 mL) was added trifluoromethanesulfonic anhydride (515 μL) under ice-cooling, and the mixture was stirred for 10 min. A solution of N-[2-(benzylthio)-3,3-dimethoxypropyl]-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide (1.5 g) and thioanisole (690 mg) in dichloromethane (10 mL) was added dropwise to the reaction mixture under ice-cooling, and the mixture was stirred for 10 min. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give white crystals from a fraction eluted with ethyl acetate:hexane=50:50. The white crystals were purified by preparative HPLC to give the title compound (487 mg, yield 40%) as white crystals. melting point 153° C.

reactant | triphenylphosphine oxide | 849 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 515 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[2-(benzylthio)-3,3-dimethoxypropyl]-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 1.5 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C1=NC=CC=C1)C(OC)OC | C26H28N4O5S2
reactant | thioanisole | 690 mg | C1(=CC=CC=C1)SC | C7H8S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-{2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}pyridine-2-sulfonamide | 487 mg, yield 40% | COC(C1CN=C(S1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C1=NC=CC=C1)OC | C19H20N4O4S2
